US06559166B1
b) N-BOC 4-(4-bromophenylthio)piperidine
N-BOC 4-mesyloxypiperidine (40 g, 0.14 mol), 4-bromothiophenol (32 g, 0.17 mol) and potassium carbonate (30 g, 0.22 mol) were mixed at room temperature in CH3CN (300 ml) and heated at reflux for 18 h. Work-up by partitioning between water and EtOAc afforded 50 g of material as a yellow oil. δH (360 MHz, CDCl3) 1.44 (9H, s), 1.45-1.55 (2H, m), 1.85-1.95 (2H, m), 2.85-2.95 (2H, m), 3.10-3.20 (1H, m), 3.95-4.05 (2H, m), 7.25-7.30 (2H, m), 7.40-7.45 (2H, m).

reactant | N-BOC 4-mesyloxypiperidine | 0.14 mol, 40 g | C(=O)(OC(C)(C)C)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | 4-bromothiophenol | 0.17 mol, 32 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | potassium carbonate | 0.22 mol, 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 300 ml | CC#N | C2H3N
product | N-BOC 4-(4-bromophenylthio)piperidine | 50 g | C(=O)(OC(C)(C)C)N1CCC(CC1)SC1=CC=C(C=C1)Br | C16H22BrNO2S
